* akcli builtin behavioral SPICE library (clean-room).
*
* These are lightweight behavioral macromodels -- enough to make a circuit
* oscillate, compare, or sink a photocurrent for a sanity-level transient/AC
* run. They are NOT vendor models and carry no proprietary parameters; every
* threshold below is a textbook/datasheet-derived nominal, cited inline.
*
* All values are pure ASCII. Loaded on demand by sim.models.resolve() when a
* Sim.Device / spec.models entry names one of these subcircuits.

*------------------------------------------------------------------------------
* AKCLI_COMP555 - behavioral NE555 astable/monostable core.
*
* Datasheet-derived thresholds (TI NE555, Fig. functional block): the two
* internal comparators trip at 2/3 VCC (THRESHOLD) and 1/3 VCC (TRIGGER); an
* internal 3 x 5k divider sets the CONTROL node to 2/3 VCC when pin 5 is open.
* The SR latch (reset-dominant) is modeled as a slew-limited memory node; the
* discharge transistor (pin 7) is an open-collector sink active while OUT low.
* Standard pin order: 1 GND  2 TRIG  3 OUT  4 RESET  5 CTRL  6 THRES  7 DISCH
* 8 VCC.
*------------------------------------------------------------------------------
.subckt AKCLI_COMP555 GND TRIG OUT RESET CTRL THRES DISCH VCC
* internal control divider: CTRL = 2/3 VCC, cx (= trigger ref) = 1/3 VCC
R1 VCC CTRL 5k
R2 CTRL cx 5k
R3 cx GND 5k
* weak pull-up so an unconnected RESET pin defaults inactive (high)
Rrst VCC RESET 1meg
* comparator flags: set when TRIG < 1/3 VCC, reset when THRES > 2/3 VCC
Bset s 0 V=(v(TRIG)<v(cx)) ? 1 : 0
Brst r 0 V=(v(THRES)>v(CTRL)) ? 1 : 0
* reset-dominant SR latch as a slew-limited memory node q (RESET active-low)
Blatch nq 0 V=(v(RESET)<0.7) ? 0 : ((v(r)>0.5) ? 0 : ((v(s)>0.5) ? 1 : v(q)))
Rlat nq q 100
Clat q 0 10n
* push-pull output buffer (rail-0.1 V swing)
Bout OUT 0 V=(v(q)>0.5) ? v(VCC)-0.1 : 0.1
Rout OUT GND 1meg
* open-collector discharge: ~10 ohm sink to GND while output low (q=0)
Bdis DISCH 0 I=(v(q)<0.5) ? v(DISCH)/10 : 0
.ends AKCLI_COMP555

*------------------------------------------------------------------------------
* AKCLI_COMPARATOR - behavioral open-collector comparator (e.g. LM393-style).
*
* High input impedance (1 meg to ground on each input, textbook nominal for a
* bipolar comparator front end). The open-collector output sinks to ~0 V when
* v(inp) > v(inn) and floats otherwise; a tanh() gives a finite ~20 mV/decade
* transition instead of an ideal step so the transient solver converges cleanly.
* Pin order: inp inn out vcc.
*------------------------------------------------------------------------------
.subckt AKCLI_COMPARATOR inp inn out vcc
Rin1 inp 0 1meg
Rin2 inn 0 1meg
* output sink current: (out/10) scaled by a smooth 0..1 gate on (inp-inn)
Bout out 0 I=(v(out)/10)*(0.5+0.5*tanh(100*(v(inp)-v(inn))))
.ends AKCLI_COMPARATOR

*------------------------------------------------------------------------------
* AKCLI_PHOTOTRANS - behavioral phototransistor collector-emitter path
* (TCRT5000-style reflective sensor output stage).
*
* Models the linear-region collector current as {gain} x a 1 mA reference,
* gated off near saturation (Vce < ~0.1 V) so the device behaves like a real
* current sink into a load resistor. {gain} lets the caller scale the nominal
* photocurrent to the coupling of their optics. Drive/modulate by wiring an
* external current stimulus into the collector node (TCRT-style).
* Pin order: c e ; param: gain.
*------------------------------------------------------------------------------
.subckt AKCLI_PHOTOTRANS c e params: gain=1
Bce c e I={gain}*1m*(0.5+0.5*tanh(20*(v(c)-v(e)-0.1)))
Rce c e 10meg
.ends AKCLI_PHOTOTRANS
